US04297440
Synthesis of 3-[2-chloro-5-(2-oxo-5-hexyl-pyrrolidin-1-yl)anilino]-1-(2,4,6-trichlorophenyl)-2-pyrazolin-5-one; i.e., Coupler (1)
26 g of 3-(5-amino-2-chloroanilino)-1-(2,4,6-trichlorophenyl)-2-pyrazolin-5-one was suspended in 200 ml of acetonitrile and to the suspension 15.5 g of γ-chlorodecanoyl chloride described above was added dropwise under refluxing. After refluxing for 1 hour, the reaction mixture was cooled and water was added to the mixture followed by extracting with ethyl acetate. By distilling off the solvent under reduced pressure, the crystalline residue was obtained. The residue was dissolved in 300 ml of toluene; to the solution 3 g of tetrabutylammonium chloride was added, and then a solution containing 30 g of sodium hydroxide dissolved in 30 ml of water was added. After stirring vigorously at 60° C. for 4 hours, the reaction mixture was cooled and separated. The organic solvent layer was washed with water and the solvent was distilled off under reduced pressure. The residual crystals were recrystallized from acetonitrile to obtain 29 g of the desired compound. The melting point was 224° to 227° C.

reactant | 3-(5-amino-2-chloroanilino)-1-(2,4,6-trichlorophenyl)-2-pyrazolin-5-one | 26 g | NC=1C=CC(=C(NC2=NN(C(C2)=O)C2=C(C=C(C=C2Cl)Cl)Cl)C1)Cl | C15H10Cl4N4O
reactant | γ-chlorodecanoyl chloride | 15.5 g | ClC(CC(=O)Cl)CCCCCCC | C10H18Cl2O
reactant | sodium hydroxide | 30 g | [OH-].[Na+]
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrabutylammonium chloride | 3 g | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 30 ml | O | H2O
product | 3-[2-chloro-5-(2-oxo-5-hexyl-pyrrolidin-1-yl)anilino]-1-(2,4,6-trichlorophenyl)-2-pyrazolin-5-one | 29 g | ClC1=C(NC2=NN(C(C2)=O)C2=C(C=C(C=C2Cl)Cl)Cl)C=C(C=C1)N1C(CCC1CCCCCC)=O | C25H26Cl4N4O2
